US07557213B2
21.8 g (3.61 mmol) of 2-[(6-Methyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester was dissolved in 300 mL of diphenyl ether and the solution was heated at 250° C. After 2.5 h the solution was cooled to rt and 50 mL of hexane was added. The mixture was filtered and the solid washed with hexane to yield 18.5 g of -Methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester as a brown solid.

reactant | 2-[(6-Methyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester | 3.61 mmol, 21.8 g | C(C)OC(C(C(=O)OCC)=CNC1=NC(=CC=C1)C)=O | C14H18N2O4
reactant | hexane | 50 mL | CCCCCC | C6H14
solvent | diphenyl ether | 300 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Methyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=NC=CC=C2C1=O)C | C12H12N2O3
